US07850872B2
As shown in the following Reaction 4, 200 mg (0.63 mmol) of [4-(2,3-Dihydro-thieno[3,4-b][1,4]dioxin-5-yl)-phenylethynyl]-trimethyl-silane obtained in C of Example 1-1 was melted in 5 mL of methyl alcohol, and 170 mg (1.27 mmol, 2 eq) of calcium carbonate was added thereto, and then the reaction product was stirred for 12 hours. Next, the reaction solution was extracted with 10 mL of methylene chloride 1 time. The organic solvent layer was dehydrated with magnesium sulfate, filtered, and then distilled under reduced pressure. The compound distilled under reduced pressure was purified with a column chromatography (mobile phase volume ratio: methylene chloride:n-hexane=2:3) to obtain 140 mg of 5-(4-Ethynyl-phenyl)-2,3-dihydro-thieno[3,4-b][1,4]dioxine with the yield of 93%. NMR data of the obtained compound is as follows. [1H NMR (400 MHz, CDCl3): δ 3.10 (s, 1H), 4.23-4.26 (m, 2H), 4.29-4.32 (m, 2H), 6.33 (s, 1H), 7.46 (d, 2H), 7.67 (d, 2H)].

reactant | [4-(2,3-Dihydro-thieno[3,4-b][1,4]dioxin-5-yl)-phenylethynyl]-trimethyl-silane | 0.63 mmol, 200 mg | O1C=2C(OCC1)=C(SC2)C2=CC=C(C=C2)C#C[Si](C)(C)C | C17H18O2SSi
reactant | calcium carbonate | 1.27 mmol, 170 mg, 2 eq | C([O-])([O-])=O.[Ca+2]
solvent | methyl alcohol | 5 mL | CO | CH4O
product | 5-(4-Ethynyl-phenyl)-2,3-dihydro-thieno[3,4-b][1,4]dioxine | 140 mg, yield of 93% | C(#C)C1=CC=C(C=C1)C=1SC=C2OCCOC21 | C14H10O2S
